US07435837B2
Treatment of (±)-1-[4-(2-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine (0.533 g, 1.94 mmol) with diisopropylethylamine (0.375 g, 2.90 mmol) and benzyl chloroformate (0.363 g, 2.13 mmol) generally according to the procedure described for Intermediate 12 provided 0.594 g (82%) of (±)-benzyl[4-(2-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methylcarbamate as colorless oil. Rf=0.42 (silica, ethyl acetate:hexanes 1:4); Anal. calcd. for C24H23NO3: C, 77.19H, 6.21; N, 3.75. Found: C, 76.0H, 6.01; N, 3.55. Chiral HPLC separation of (±)-benzyl[4-(2-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methylcarbamate (Chiralcel OD, methanol) provided two fractions. Fraction 1 (Rt=5.952 min Chiralcel OD, methanol); Fraction 2 (Rt=7.345 min, Chiralcel OD, methanol).

reactant | (±)-1-[4-(2-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine | 1.94 mmol, 0.533 g | CC1=C(C=CC=C1)C1=CC=CC2=C1CC(O2)CN | C16H17NO
reactant | diisopropylethylamine | 2.90 mmol, 0.375 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | benzyl chloroformate | 2.13 mmol, 0.363 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
product | (±)-benzyl[4-(2-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methylcarbamate | 0.594 g, 82% | C(C1=CC=CC=C1)OC(NCC1OC2=C(C1)C(=CC=C2)C2=C(C=CC=C2)C)=O | C24H23NO3
